US08008307B2
Step e: 4,6-dichloro-N-[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]-1,3,5-triazin-2-amine
To a solution of (1R,2S)-2-methoxyindan-1-amine (242.8 mg, 0.001488 mol) in THF (1 mL) was added cyanuric chloride (313 mg, 0.00170 mol) at 0° C., followed by DIPEA (300 μL, 0.002 mol) and the reaction was stirred at 0° C. for 1.5 hours. The reaction was poured into water and extracted with CH2Cl2. The organic layer was dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography (0 to 15% EtOAc/hexanes) to obtain 229.1 mg (49%) of the title compound. LC/MS: Rt=2.03 min, ES+ 311 (FA standard).

reactant | (1R,2S)-2-methoxyindan-1-amine | 0.001488 mol, 242.8 mg | CO[C@@H]1[C@@H](C2=CC=CC=C2C1)N | C10H13NO
reactant | cyanuric chloride | 0.00170 mol, 313 mg | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | DIPEA | 0.002 mol, 300 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4,6-dichloro-N-[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]-1,3,5-triazin-2-amine | 229.1 mg, 49% | ClC1=NC(=NC(=N1)Cl)N[C@H]1[C@H](CC2=CC=CC=C12)OC | C13H12Cl2N4O
